US07173058B2
3-(7-Acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N,N-dimethyl-propionamide was prepared by the procedure of example 13 from 3-(7-acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.1 g, 0.22 mmol), CDI (0.05 g, 0.33 mmol) and dimethylamine (0.33 ml, 0.66 mmol) in THF (10 ml) to give as 3-(7-acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N,N-dimethyl-propionamide white solid (0.05 g, 50% yield): mp 141–143° C.; 1HNMR (CDCl3): δ 1.44 (t, J=7.0 Hz, 3H, OCH2CH3), 2.25 (s, 3H, CH3CO), 2.93 (s, 3H, NCH3), 3.04 (dd, J=5, 15 Hz, 1H, CH2), 3.10 (s, 3H, NCH3), 3.60 (dd, J=10, 15 Hz, 1H, CH2), 4.09 (q, J=7.0 Hz, 2H, OCH2CH3), 4.33 (d, J=18 Hz, 1H, CH2N), 4.44 (d, J=18 Hz, 1H, CH2N), 5.59 (m, 1H, CHN), 6.55 (t, JH-F=75 Hz, 1H, CF2H), 7.04 (m, 4H, Ar), 7.45 (t, J=7.5 Hz, 1H, Ar), 8.45(d, J=7.5 Hz, 1H, Ar), 10.35 (s, 1H, NHCO). 13CNMR (DMSO-d6): δ 14.5, 24.8, 35.5, 35.9, 37.2, 49.0, 53.8, 64.7, 111.9, 113.4, 113.5, 116.0, 116.8, 117.5, 117.8, 119.1, 119.1, 120.1, 122.6, 133.0, 137.7, 138.2, 139.7, 138.2, 139.6, 139.7, 141.5, 150.6, 168.9, 169.2, 169.5; Anal. Calcd. for C24H27F2N3O5: C, 60.62; H, 5.72; N, 8.84. Found: C, 59.90; H, 5.46; N, 8.66.

reactant | 3-(7-acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 0.22 mmol, 0.1 g | C(C)(=O)NC=1C=CC=C2CN(C(C12)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC | C22H22F2N2O6
reactant | CDI | 0.33 mmol, 0.05 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethylamine | 0.66 mmol, 0.33 ml | CNC | C2H7N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-(7-acetylamino-1-oxo-1,3-dihydro-isoindol-2-yl)-3-(4-difluoromethoxy-3-ethoxy-phenyl)-N,N-dimethyl-propionamide | 0.05 g, 50% yield | C(C)(=O)NC=1C=CC=C2CN(C(C12)=O)C(CC(=O)N(C)C)C1=CC(=C(C=C1)OC(F)F)OCC | C24H27F2N3O5
